US07893058B2
Step 3: 4,5-Dihydro-thieno[2,3-c]pyrrol-6-one
To a solution of 3-aminomethyl-thiophene-2-carboxylic acid methyl ester (0.82 g, 4.79 mmol) in 1:1 MeOH-EtOH (125 mL), is added K2CO3 (0.66 g, 4.79 mmol) and the mixture is stirred at 90° C. for 5 hours. The solvent is removed in vacuo and the residue purified by silica gel column chromatography eluting with 97:3 DCM:MeOH. The title compound is isolated (0.365 g, 55%).

reactant | 3-aminomethyl-thiophene-2-carboxylic acid methyl ester | 4.79 mmol, 0.82 g | COC(=O)C=1SC=CC1CN | C7H9NO2S
reactant | K2CO3 | 4.79 mmol, 0.66 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH EtOH | 125 mL | CO.CCO
product | 4,5-Dihydro-thieno[2,3-c]pyrrol-6-one | S1C=CC2=C1C(NC2)=O | C6H5NOS
